US05599966
A4. (4-Phenylbutyl)6-bromohexanoate
From 6-bromocaproic acid and 4-phenyl-1-butanol. Working up by means of distillation. Yield: 80%. Boiling point: 158° C. (0.008 mbar).

reactant | 6-bromocaproic acid | BrCCCCCC(=O)O | C6H11BrO2
reactant | 4-phenyl-1-butanol | C1(=CC=CC=C1)CCCCO | C10H14O
product | (4-Phenylbutyl)6-bromohexanoate | Yield: 80% | C1(=CC=CC=C1)CCCCOC(CCCCCBr)=O | C16H23BrO2
